US05948933
2-Carbomethoxy-3-hydroxy-8-oxabicyclo(3.2.1)octane
NaBH4 (2.56 g, 67.7 mmol) was added to a solution of 2-carbomethoxy-8-oxabicyclo(3.2.1)octan-3-one, 3, (5.12 g, 27.8 mmol) in MeOH (100 mL) at -78° C. The reaction mixture was left at room temperature overnight. The solution was concentrated to dryness. The residue was dissolved in water (50 mL), and extracted with CH2Cl2 (100, 2×50 mL). The combined dried (MgSO4) extracts were concentrated to dryness (yield: 3.9 g). By repeated flash column chromatography four isomers were obtained from the residue (2.9 g). The major isomer was 2α-carbomethoxy-3α-hydroxy-8-oxabicyclo(3.2.1)octane (1.0 g, 26%). Some of the other isomers were isolated to be used in the following reactions but there were still mixed fractions. Other pure isomers obtained: 2β-carbomethoxy-3α-hydroxy-8-oxabicyclo(3.2.1)octane (28 mg), 2β-carbomethoxy-3β-hydroxy-8-oxabicyclo(3.2.1)octane (305 mg) and 2α-carbomethoxy-3β-hydroxy-8-oxabicyclo(3.2.1)octane (84 mg).

reactant | NaBH4 | 67.7 mmol, 2.56 g | [BH4-].[Na+]
reactant | 2-carbomethoxy-8-oxabicyclo(3.2.1)octan-3-one | C(=O)(OC)C1C2CCC(CC1=O)O2 | C9H12O4
solvent | MeOH | 100 mL | CO | CH4O
product | 2-Carbomethoxy-3-hydroxy-8-oxabicyclo(3.2.1)octane | 2.9 g | C(=O)(OC)C1C2CCC(CC1O)O2 | C9H14O4
